US07718693B2
1-Methyl-5-oxo-proline (0.050 g, 0.35 mmol, prepared as described below) was dissolved in anhydrous dichloromethane (˜7 ml) and to this was added 1-hydroxybenzotriazole (0.047 g, 0.42 mmol), [(2-chloro-4-fluorophenyl)methyl]amine (0.056 ml, 0.42 mmol), N-ethyl morpholine (0.166 ml, 1.04 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.067 g, 0.42 mmol). The mixture was stirred at room temperature overnight. A further aliquot of [(2-chloro-4-fluorophenyl)methyl]amine (0.100 ml, 0.8 mmol) was added to the mixture and stirring continued for a while longer but HPLC indicated that no further product was forming. The mixture was washed sequentially with 2M aqueous hydrogen chloride (5 ml) and saturated aqueous sodium hydrogen carbonate (5 ml). The organic layer was collected and evaporated to give the crude product. The crude material was purified by mass-directed automated HPLC to give pure N-[(2-chloro-4-fluorophenyl)methyl]-1-methyl-5-oxo-prolinamide (0.015 g) as a white solid. LC/MS [M+H]+=285, retention time=2.04 minutes.

reactant | 1-Methyl-5-oxo-proline | 0.35 mmol, 0.050 g | CN1[C@H](C(=O)O)CCC1=O | C6H9NO3
reactant | 1-hydroxybenzotriazole | 0.42 mmol, 0.047 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | [(2-chloro-4-fluorophenyl)methyl]amine | 0.42 mmol, 0.056 ml | ClC1=C(C=CC(=C1)F)CN | C7H7ClFN
reactant | N-ethyl morpholine | 1.04 mmol, 0.166 ml | C(C)N1CCOCC1 | C6H13NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.42 mmol, 0.067 g | Cl.CN(CCCN=C=NCC)C
reactant | [(2-chloro-4-fluorophenyl)methyl]amine | 0.8 mmol, 0.100 ml | ClC1=C(C=CC(=C1)F)CN | C7H7ClFN
solvent | dichloromethane | ˜7 ml | ClCCl | CH2Cl2
product | N-[(2-chloro-4-fluorophenyl)methyl]-1-methyl-5-oxo-prolinamide | 0.015 g | ClC1=C(C=CC(=C1)F)CNC([C@H]1N(C(CC1)=O)C)=O | C13H14ClFN2O2
